US04339268
Preparation of (2-nitropropyl) 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoate.
A stirred mixture of 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoic acid (50 g, 0.139 mole), 2-nitropropanol (13.2 g, 0.126 mole) and conc. sulfuric acid (1 ml) in benzene (500 ml) was heated to reflux for 24 hours, during which time water (1.9 g) was removed via a Dean Stark trap. The solvent was stripped under reduced pressure and the residue poured into water (700 ml). The product was extracted into ether, which was washed with water and then with 5% sodium bicarbonate. The dried ether solution was concentrated to give 23.2 g of an amber oil which slowly solidified to a tacky semi-solid.

reactant | 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoic acid | 0.139 mole, 50 g | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H7ClF3NO5
reactant | 2-nitropropanol | 0.126 mole, 13.2 g | [N+](=O)([O-])C(CO)C | C3H7NO3
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 1.9 g | O | H2O
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | (2-nitropropyl) 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoate | 23.2 g | ClC1=C(OC=2C=CC(=C(C(=O)OCC(C)[N+](=O)[O-])C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C17H12ClF3N2O7
